US06916819B2
To a solution of 1-(3-fluoro-phenyl)-ethanone (0.55 g, 4.0 mmol) in THF (30 mL) at −78° C. under N2 is added LDA (2M in hexanes, 2.0 mL, 4.0 mmol). After 10 minutes, 5-bromo-2-chloromethyl-1-ethyl-1H-benzoimidazole (1 g, 3.65 mmol) in THF (5 mL) is added. The mixture is stirred at this temperature for an additional 1 hour and is gradually warmed to room temperature. The reaction is then quenched with saturated NH4Cl. The mixture is extracted with ethyl acetate (3×50 mL). Upon drying, the organic solvent is removed to give 3-(5-Bromo-1-ethyl-1H-benzoimidazol-2-yl)-1-(3-fluoro-phenyl)-propan-1-one as a yellow oil.

reactant | 1-(3-fluoro-phenyl)-ethanone | 4.0 mmol, 0.55 g | FC=1C=C(C=CC1)C(C)=O | C8H7FO
reactant | LDA | 4.0 mmol, 2M, 2.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | 5-bromo-2-chloromethyl-1-ethyl-1H-benzoimidazole | 3.65 mmol, 1 g | BrC1=CC2=C(N(C(=N2)CCl)CC)C=C1 | C10H10BrClN2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(5-Bromo-1-ethyl-1H-benzoimidazol-2-yl)-1-(3-fluoro-phenyl)-propan-1-one | BrC1=CC2=C(N(C(=N2)CCC(=O)C2=CC(=CC=C2)F)CC)C=C1 | C18H16BrFN2O
